US06093714
A 1.0 M solution (1.9 ml) of lithium bistrimethylsilylamide in tetrahydrofuran was added to tetrahydrofuran (4.0 ml) at -78° C. under an argon atmosphere, and the mixture was stirred for 30 min. A solution of ethyl propiolate (176 μl, 1.74 mmol) in tetrahydrofuran (1.0 ml) was added thereto, and the mixture was stirred for 30 min. A solution of 3,4,5-trimethoxy-2-nitrobenzaldehyde (280 mg, 1.16 mmol), prepared in the step (b), in tetrahydrofuran (2.5 ml) was added thereto, and the temperature was raised to -58° C., followed by stirring for 30 min. The reaction mixture was poured into an ice-cold 10% aqueous ammonium chloride solution, and the mixture was vigorously stirred for 5 min. The reaction mixture was extracted with ethyl acetate, and the organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give ethyl 4-hydroxy-4-(3,4,5-trimethoxy-2-nitrophenyl)-2-butynoate as an oil (268 mg, 68%).

reactant | lithium bistrimethylsilylamide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | ethyl propiolate | 1.74 mmol, 176 μl | C(C#C)(=O)OCC | C5H6O2
reactant | 3,4,5-trimethoxy-2-nitrobenzaldehyde | 1.16 mmol, 280 mg | COC=1C(=C(C=O)C=C(C1OC)OC)[N+](=O)[O-] | C10H11NO6
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.0 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4.0 ml | O1CCCC1 | C4H8O
product | ethyl 4-hydroxy-4-(3,4,5-trimethoxy-2-nitrophenyl)-2-butynoate | 268 mg, 68% | OC(C#CC(=O)OCC)C1=C(C(=C(C(=C1)OC)OC)OC)[N+](=O)[O-] | C15H17NO8
